US06387908B1
Ethyl (2S,3S)-3-[[1-(S)-[α-(R)-methoxybenzyl]-3-methylbutyl]carbamoyl]oxirane-2-carboxylate (Compound No. 11)
The procedures of Example 1a were repeated employing (2S,3S)-3-ethoxycarbonyloxirane-2-carboxylic acid and 1-(S)-[α-(R)-methoxybenzyl]-3-methylbutylamine (its preparation is described in the after-mentioned Reference Example 2) to prepare the titled compound.

reactant | (2S,3S)-3-ethoxycarbonyloxirane-2-carboxylic acid | C(C)OC(=O)[C@@H]1[C@H](O1)C(=O)O | C6H8O5
reactant | 1-(S)-[α-(R)-methoxybenzyl]-3-methylbutylamine | CO[C@H](C1=CC=CC=C1)[C@H](CC(C)C)N | C13H21NO
product | Ethyl (2S,3S)-3-[[1-(S)-[α-(R)-methoxybenzyl]-3-methylbutyl]carbamoyl]oxirane-2-carboxylate | CO[C@H](C1=CC=CC=C1)[C@H](CC(C)C)NC(=O)[C@@H]1[C@H](O1)C(=O)OCC | C19H27NO5
